US07125901B2
N-[4-(2-{4-[(Aminooxy)methyl]phenyl}ethyl)-1,3-thiazol-2-yl]acetamide (30 mg) prepared in a similar manner according to Production Example 16, 37% formaldehyde (8 μl) and dry methanol (1 ml) were combined under nitrogen atmosphere. The reaction mixture was stirred at room temperature for 6 hours and concentrated in vacuo. The residue was purified by preparative silica gel column chromatography with chloroform/methanol (20:1) as an eluent, and triturated with ethyl ether to give N-{4-[2-(4-{[(methyleneamino)oxy]methyl}-phenyl)ethyl]-1,3-thiazol-2-yl}acetamide (20.9 mg) as a colorless solid.

reactant | N-[4-(2-{4-[(Aminooxy)methyl]phenyl}ethyl)-1,3-thiazol-2-yl]acetamide | 30 mg | NOCC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | C14H17N3O2S
reactant | formaldehyde | 8 μl | C=O | CH2O
solvent | methanol | 1 ml | CO | CH4O
product | N-{4-[2-(4-{[(methyleneamino)oxy]methyl}-phenyl)ethyl]-1,3-thiazol-2-yl}acetamide | 20.9 mg | C=NOCC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | C15H17N3O2S
